*****Single NMOS Transistor For BSIM3V3.1  general purpose check (Id-Vd) ***

*** circuit description ***
m1 2 1 0 0 n1 L=0.35u W=10.0u
vgs 1 0 3.5 
vds 2 0 3.5 


.dc vds 0 3.5 0.05 vgs 0 3.5 0.5 
.options Temp=100.0

.print dc v(1) i(vds)

.include modelcard.nmos

.end





